US08383629B2
To a mixture of (E)-1-methyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxylic acid (20 mg, 0.508 mmol), EDCI (18 mg, 0.088 mmol), HOBt (12 mg, 0.088 mmol), and DIEA (60 mg, 0.44 mmol) in CH2Cl2 was added NHMe2.HCl (16 mg, 0.176 mmol) at 0° C. The mixture was stirred at rt overnight. The mixture was concentrated to give the crude product, which was purified by preparative TLC to give (E)-N,N,1-trimethyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxamide (6 mg, 14%). 1H NMR (400 MHz, CDCl3): δ=3.05 (m, 6H), 3.25 (m, 3H), 3.60-3.75 (m, 2H), 3.95 (m, 2H), 4.15 (m, 1H), 4.35 (m, 1H), 6.85 (m, 1H), 7.35 (m, 1H), 7.45 (m, 2H), 7.55 (m, 1H) 7.70 (m, 2H), 8.00 (m, 1H).

reactant | (E)-1-methyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxylic acid | 0.508 mmol, 20 mg | CN1C(C2(CCN(CC2)C(\C=C\C2=C(C=CC=C2)C(F)(F)F)=O)C2=CC(=CC=C12)C(=O)O)=O | C24H21F3N2O4
reactant | EDCI | 0.088 mmol, 18 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.088 mmol, 12 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.44 mmol, 60 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | NHMe2.HCl | 0.176 mmol, 16 mg | N(C)C.Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (E)-N,N,1-trimethyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxamide | 6 mg, 14% | CN(C(=O)C=1C=C2C(=CC1)N(C(C21CCN(CC1)C(\C=C\C1=C(C=CC=C1)C(F)(F)F)=O)=O)C)C | C26H26F3N3O3
